US07572820B2
1-(Cyclopropylmethyl)-2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 4 using 2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile and (bromomethyl)cyclopropane: 1H NMR (400 MHz, CDCl3) δ 7.48 (s, 2H), 6.57 (s, 1H), 4.04 (d, J=6.6 Hz, 2H), 2.50 (s, 3H), 1.16 (m, 1H), 0.60 (m, 2H), 0.34 (m, 2H); MS (ES) m/z 279 (M+1).

reactant | 2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | CC=1NC2=CC=C(C(=C2C1)C(F)(F)F)C#N | C11H7F3N2
reactant | (bromomethyl)cyclopropane | BrCC1CC1 | C4H7Br
product | 1-(Cyclopropylmethyl)-2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | C1(CC1)CN1C(=CC2=C(C(=CC=C12)C#N)C(F)(F)F)C | C15H13F3N2
